US08067445B2
Step 1: {2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5,4′-bis-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: cyclopropanecarboxylic acid ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]amide and (3-trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester.

reactant | cyclopropanecarboxylic acid ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]amide | C(C)N(C(=O)C1CC1)CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C20H27BF3NO3
reactant | (3-trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F)=O | C11H8F6O5S
product | {2′-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5,4′-bis-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)C(F)(F)F)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)C1CC1)=O | C24H23F6NO3
